US04461773
A mixture of 83.6 g (0.5 mole) of 3-phenylamino-1,2-propanediol, 250 ml of 1,2-dimethoxyethane and 61 ml of diethyl carbonate was refluxed in a nitrogen atmosphere. Solid sodium methoxide (about 0.15 g) was added and refluxing continued for approximately 21/2 hours. The mixture was cooled, stirred with water and filtered to yield 41.1 g of 5-(hydroxymethyl)-3-phenyl-2-oxazolidinone, m.p. 122°-124° C. The 41.1 g was recrystallized from 100 ml of absolute ethanol to give 38.0 g, m.p. 125.5°-126° C. A further crop of 25.3 g (m.p. 124.5°-125° C.) was obtained from the water filtrate by concentrating and recrystallizing from ethanol.

reactant | 3-phenylamino-1,2-propanediol | 0.5 mole, 83.6 g | C1(=CC=CC=C1)NCC(CO)O | C9H13NO2
reactant | 1,2-dimethoxyethane | 250 ml | COCCOC | C4H10O2
reactant | diethyl carbonate | 61 ml | C(OCC)(OCC)=O | C5H10O3
reactant | sodium methoxide | about 0.15 g | C[O-].[Na+]
solvent | water | O | H2O
product | 5-(hydroxymethyl)-3-phenyl-2-oxazolidinone | 41.1 g | OCC1CN(C(O1)=O)C1=CC=CC=C1 | C10H11NO3
